US07902400B2
A mixture of 346 mg of 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride and 1 ml of tetrahydrofuran was added dropwise under ice cooling to a mixture of 5 ml of tetrahydrofuran, 170 mg of 2-methylcyclohexylamine and 182 mg of triethylamine. The mixture obtained was stirred at room temperature for 0.5 hour. The reaction mixture was filtered. The filtrate was concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 295 mg of N-(2-methylcyclohexyl)-3,5-difluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 42 of the present invention) represented by the formula:

reactant | 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride | 346 mg | FC=1C=C(C(=O)Cl)C=C(C1OCC#C)F | C10H5ClF2O2
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 2-methylcyclohexylamine | 170 mg | CC1C(CCCC1)N | C7H15N
solvent | triethylamine | 182 mg | C(C)N(CC)CC | C6H15N
product | N-(2-methylcyclohexyl)-3,5-difluoro-4-(2-propynyloxy)benzamide | 295 mg | CC1C(CCCC1)NC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C17H19F2NO2
